US07935841B2
(iv) Hydrogenation of 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline
6,7-Dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinoline, conversion>99%, ee 82% (GC, sample derivatised by treatment with acetic anhydride pyridine, Chirasil DEX CB, 25 m×0.25 mm, injector/detector 200° C., helium 20 psi, 170° C. for 20 minutes then ramp at 5° C./min to 200° C., hold for 10 minutes, retention times 30.18 minutes and 30.45 minutes).

reactant | 6,7-Dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCNC(C2=CC1OC)C | C12H17NO2
reactant | acetic anhydride pyridine | N1=CC=CC=C1.C(C)(=O)OC(C)=O
product | 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline | CC1=NCCC2=CC(=C(C=C12)OC)OC | C12H15NO2
